US06306947B1
In the dropping tank of a reaction vessel (tank) equipped with a stirrer, a thermometer, a nitrogen-sealing tube, a condenser and a dropping tank were placed 13.0 parts of MMA, 7.0 parts of BA, 2.5 parts of AA, 2.5 parts of DAAA, 1.0 part of AIBN, 25 parts of MEK and 25 parts of IPA and then mixed uniformly. Separately, in the reaction tank were placed 37.3 parts of a mixed polyol of polycarbonatediol having a number average molecular weight of 2,000 obtained from 1,6-hexanediol and diethyl carbonate/polycaprolactonediol having a number average molecular weight of 2,000 obtained using ethylene glycol as initiator=8/2 (weight ratio) (referred to hereinafter as Polyol H), 1.4 parts of DMBA, 1.0 part of MHE, 1.7 parts of HMK, 0.8 part of HEMA, 13.0 parts of MMA, 7.0 parts of BA, 2.5 parts of AA, 2.5 parts of DAAA, 25 parts of MEK and 25 parts of IPA and then dissolved at 50° C. Subsequently, 7.8 parts of HDI was added thereto and thereafter the resulting mixture was heated to 75° C., and the liquid mixture in the dropping tank was dropped into the reaction tank over 5 hours, after which the resulting mixture was further subjected simultaneously to urethanization reaction and radical polymerization reaction at the same temperature over 3 hours. After it was confirmed by an infrared absorbant analysis that the isocyanate group was not present in the reaction mixture, 6.6 parts of DMEA was added thereto to sufficiently neutralize the same, after which aqueous hydrazide consisting of 235 parts of distilled water and 3.0 parts of ADH was added to the reaction mixture to emulsify the same. Thereafter, the MEK and the IPA present in the system were removed at 60° C. at 13.3 kPa to obtain an aqueous emulsion of a self-emulsifiable acrylurethane copolymer having a solid content of 30.2% (the emulsion is referred to hereinafter as EA-14).

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | DMBA | CC1=C2C=CC3=CC=CC=C3C2=C(C4=CC=CC=C14)C | C20H16
reactant | HEMA | CC(=C)C(=O)OCCO | C6H10O3
reactant | DMEA | CN(C)CCO | C4H11NO
reactant | water | O | H2O
solvent | IPA | CC(C)O | C3H8O
solvent | MEK | CCC(=O)C | C4H8O
product | acrylurethane | C(=O)(C=C)NC(=O)OCC | C6H9NO3
